US06573263B2
6-(1-Aminoethyl)-3-(4-methylbenzyl)-1,2,4-triazin-5(4H)-one
20 g (69.9 mmol) of N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]-ethyl}acetamide are stirred under reflux in 200 ml of 2 N hydrochloric acid for 18 h. The cooled mixture is then neutralized using 6 N NaOH and evaporated to dryness in vacuo. The residue is suspended in methanol and the salt is separated off. The concentrated filtrate is flash-chromatographed using dichloromethane/methanol 20/1 and 5/1.

reactant | N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]-ethyl}acetamide | 69.9 mmol, 20 g | CC1=CC=C(CC2=NN=C(C(N2)=O)C(C)NC(C)=O)C=C1 | C15H18N4O2
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | hydrochloric acid | 2 N, 200 ml | Cl | ClH
product | 6-(1-Aminoethyl)-3-(4-methylbenzyl)-1,2,4-triazin-5(4H)-one | NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)C)=O | C13H16N4O
